US09380782B2
A mixture of 1-ethoxy-2-methyl-3-nitrobenzene described in Reference Preparation example 2539.9 g, palladium-carbon (palladium 5%) 4 g and ethanol 200 mL was stirred at room temperature under hydrogen atmosphere for eighteen hours. The mixtures were filtered and the filtrates were concentrated to give 3-ethoxy-2-methylaniline 33.0 g.

reactant | 1-ethoxy-2-methyl-3-nitrobenzene | C(C)OC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H11NO3
catalyst | palladium-carbon | 4 g | [C].[Pd]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 3-ethoxy-2-methylaniline | 33.0 g | C(C)OC=1C(=C(N)C=CC1)C | C9H13NO
